US09376422B2
Step 1: Synthesis of ethyl 3-(benzylamino)-2-methylbenzoate
To a stirred solution of ethyl 3-amino-2-methylbenzoate (1.00 g, 5.58 mmol) in DCE (20 ml) was added benzaldehyde (569 μl, 5.58 mmol) followed by acetic acid (0.64 ml, 11.2 mmol). The reaction was stirred at room temperature for 1 h and then sodium triacetoxyborohydride (1.77 g, 8.37 mmol) was added and the reaction stirred for 2 h. Distilled water (20 ml) was added and solid NaHCO3 was added until the aqueous phase was pH7 and the phases were separated. The aqueous phase was washed with DCM (2×5 0 ml), the combined organics were then washed with brine (50 ml), dried using Na2SO4, filtered and evaporated to afford the title compound as a yellow oil (1.52 g, 96%) which was used in the next stage without any further purification. LC-MS 95%, m/z=270.0, 1H NMR (500 MHz, Chloroform-d) δ 7.42-7.32 (m, 4H), 7.32-7.28 (m, 1H), 7.17-7.06 (m, 2H), 6.73 (dd, J=7.8, 1.1 Hz, 1H), 4.40 (s, 2H), 4.36 (q, J=14.3, 5.3 Hz, 2H), 4.08 (br. s, 1H), 2.35, (s, 3H), 1.39 (t, 3H).

reactant | ethyl 3-amino-2-methylbenzoate | 5.58 mmol, 1.00 g | NC=1C(=C(C(=O)OCC)C=CC1)C | C10H13NO2
reactant | benzaldehyde | 5.58 mmol, 569 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 11.2 mmol, 0.64 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 8.37 mmol, 1.77 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 20 ml | ClCCCl | C2H4Cl2
solvent | water | 20 ml | O | H2O
product | ethyl 3-(benzylamino)-2-methylbenzoate | 1.52 g, 96% | C(C1=CC=CC=C1)NC=1C(=C(C(=O)OCC)C=CC1)C | C17H19NO2
